US03952006
To a solution of 4.5 g of 3-hydroxymethyl-4-(3 -o-chlorobenzoyl-5-ethyl-2-thienyl)-5-methyl-4H-1,2,4-triazole in 50 ml of pyridine is added 2.5 g of tosyl chloride, and the mixture is allowed to stand at room temperature overnight. The solvent is distilled off, and the residue to which water is added is made alkaline with sodium bicarbonate and extracted with ethyl acetate. The ethyl acetate layer is dried over anhydrous sodium sulfate and the solvent is distilled off to give 3-tosyloxymethyl-4-(3-o-chlorobenzoyl-5-ethyl-2-thienyl)-5-methyl-4H-1,2,4-triazole as a yellowish oil.

reactant | 3-hydroxymethyl-4-(3 -o-chlorobenzoyl-5-ethyl-2-thienyl)-5-methyl-4H-1,2,4-triazole | 4.5 g | OCC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC)C | C17H16ClN3O2S
reactant | tosyl chloride | 2.5 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 3-tosyloxymethyl-4-(3-o-chlorobenzoyl-5-ethyl-2-thienyl)-5-methyl-4H-1,2,4-triazole | S(=O)(=O)(C1=CC=C(C)C=C1)OCC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC)C | C24H22ClN3O4S2
